US07153875B2
A solution of toluene (2.5 mL), piperidine (0.003 mL), acetic acid (0.003 mL), 6-[3-(1-methylcyclohexyl)-4-methoxyphenyl]-2-naphthaldehyde (0.100 g, 0.28 mmol) and 2,4-thiazolidinedione (0.033 mg, 0.28 mmol) was heated at reflux for 15 hours under an argon atmosphere. The resulting suspension was filtered and the solid was stirred at room temperature in EtOH. After 1 hours, the solid was filtered and dried under high vacuum to afford 0.048 g (37%) of 6-[3-(1-methylcyclohexyl)-4-methoxyphenyl]-naphthalen-2-yl-methylene-2,4-thiazolidinedione, mp 268–271° C. 1H NMR (300 MHz, DMSO-d6): δ 1.21–1.61 (m, 9H), 1.69–1.81 (m, 2H), 2.15 (t, J=10.7 Hz, 2H), 3.86 (s, 3H), 7.14 (d, J=8.7 Hz, 1H), 7.65 (s, 1H), 7.69 (brt, J=9.6 Hz, 2H), 7.90 (d, J=9.9 Hz, 1H), 7.94 (s, 1H), 8.10 (d, J=8.7 Hz, 1H), 8.12 (d, J=8.7 Hz, 1H), 8.19 (s, 2H), 12.66 (brs, 1H).

reactant | toluene | 2.5 mL | C1(=CC=CC=C1)C | C7H8
reactant | piperidine | 0.003 mL | N1CCCCC1 | C5H11N
reactant | 6-[3-(1-methylcyclohexyl)-4-methoxyphenyl]-2-naphthaldehyde | 0.28 mmol, 0.100 g | CC1(CCCCC1)C=1C=C(C=CC1OC)C=1C=C2C=CC(=CC2=CC1)C=O | C25H26O2
reactant | 2,4-thiazolidinedione | 0.28 mmol, 0.033 mg | S1C(NC(C1)=O)=O | C3H3NO2S
solvent | acetic acid | 0.003 mL | C(C)(=O)O | C2H4O2
product | 6-[3-(1-methylcyclohexyl)-4-methoxyphenyl]-naphthalen-2-yl-methylene-2,4-thiazolidinedione | 0.048 g, 37% | CC1(CCCCC1)C=1C=C(C=CC1OC)C=1C=C2C=CC(=CC2=CC1)N1C(SC(C1=O)=C)=O | C28H27NO3S
